US05852016
Chloroacetonitrile (233 μl, 279 mg, 3,69 mmol) was added to a refluxing mixture of N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)methane-sulphonamide (from Preparation 3, 1.00 g, 2.84 mmol) and potassium carbonate (0.47 g, 3.41 mmol) in acetone (50 ml) under nitrogen. The mixture was refluxed for 18 h and was then allowed to cool, and was partitioned between ethyl acetate (500 ml) and water (500 ml). The organic phase was dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (eluting with 0-100% ethyl acetate in hexane and then 5% methanol in dichloromethane) to give N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(cyanomethyl) methanesulphonamide as an off-white solid (600 mg, 54%).

reactant | Chloroacetonitrile | 3,69 mmol, 233 μl, 279 mg | ClCC#N | C2H2ClN
reactant | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)methane-sulphonamide | 2.84 mmol, 1.00 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)NS(=O)(=O)C | C11H11Cl2N3O4S
reactant | potassium carbonate | 3.41 mmol, 0.47 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(cyanomethyl) methanesulphonamide | 600 mg, 54% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)CC#N | C13H12Cl2N4O4S
